* shapeic-lut IHP SG13G2 LV NMOS verification
.lib '{{model_library}}' mos_tt

VGS NG 0 {{vgs}}
VBS NB 0 {{vbs}}
VDS ND 0 {{vds}}
XM1 ND NG 0 NB sg13_lv_nmos l={{length}} w={{width}} ng={{nf}}

.options temp=27 tnom=27
.control
pre_osdi {{psp_osdi}}
pre_osdi {{psp_nqs_osdi}}
save i(vds)
save @n.xm1.nsg13_lv_nmos[gm]
save @n.xm1.nsg13_lv_nmos[gds]
op
let id = abs(i(vds))
let gm = @n.xm1.nsg13_lv_nmos[gm]
let gds = @n.xm1.nsg13_lv_nmos[gds]
let gm_id = gm / id
let jd = id / {{width}}
set wr_vecnames
set wr_singlescale
wrdata {{results_path}} id gm gds gm_id jd
.endc
.end
